US08119655B2
Compound 26: 1-Benzyl-3-(3-bromo-5-methyl-pyridin-2-ylamino)-5-chloro-1H-pyrazin-2-one
2-Amino-3-bromo-5-methyl-pyridine (1.0 g, 5.35 mmol) was added to a solution of sodium hydride (60%, 321 mg, 8.0 mmol) in dry THF (20 mL) at r.t. under nitrogen. After 30 minutes, 1-benzyl-3,5-dichloro-2(1H)-pyrazinone (see Vekemans, et. al., J. Heterocyclic Chem., 20, (1983), 919-923) (1.36 g, 5.35 mmol) was added, and the reaction stirred at 72° C. for 4 h. The solution was concentrated in vacuo and the residue was dissolved in CH2Cl2. Organics were washed with H2O and brine, dried (MgSO4), and concentrated. Purification by silica gel chromatography (2:1:1 hexanes/EtOAc/CH2Cl2) gave 860 mg (40%) of the title compound as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 9.51 (s, 1H), 8.27 (s, 1H), 8.00 (s, 1H), 7.43 (s, 1H), 7.29-7.39 (m, 5H), 5.07 (s, 2H), 2.29 (s, 3H). MS (ES) [m+H] calc'd for C17H14BrClN4O, 405, 407; found 405, 407.

reactant | 2-Amino-3-bromo-5-methyl-pyridine | 5.35 mmol, 1.0 g | NC1=NC=C(C=C1Br)C | C6H7BrN2
reactant | sodium hydride | 8.0 mmol, 321 mg | [H-].[Na+]
reactant | 1-benzyl-3,5-dichloro-2(1H)-pyrazinone | 5.35 mmol, 1.36 g | C(C1=CC=CC=C1)N1C(C(=NC(=C1)Cl)Cl)=O | C11H8Cl2N2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(3-bromo-5-methyl-pyridin-2-ylamino)-5-chloro-1H-pyrazin-2-one | 860 mg, 40% | C(C1=CC=CC=C1)N1C(C(=NC(=C1)Cl)NC1=NC=C(C=C1Br)C)=O | C17H14BrClN4O
